data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_473518_0,[C:1](\[N:3]([H:11])[H:12])(=[C:6](/[C:5]([C:2]([O:7][H:9])=[O:8])([N:4]([H:13])[H:14])[H:15])[H:16])[H:10]>>[C:1]([N:3]([H:11])[H:12])([N:4]([H:13])[H:14])(/[C:6](=[C:5](/[C:2]([O:7][H:9])=[O:8])[H:15])[H:16])[H:10],58.068849999990846
MR_675365_0,[N:1](/[C:2]([N:4]([H:12])[H:13])=[N:7]/[N:3]([H:10])[H:11])([O:6][H:9])[N:8]=[C:5]([H:14])[H:15]>>[N:1](=[C:2](\[N:4]([H:12])[H:13])[N:7]([N:3]([H:10])[H:11])[N:8]=[C:5]([H:14])[H:15])\[O:6][H:9],60.75141250003085
MR_509927_1,[C:1]([C:2]([O:4][O:5]/[C:3](=[N:6]\[H:8])[H:9])=[O:7])([H:10])([H:11])[H:12]>>[C:1]([C:2]1([O:7]/[C:3](=[N:6]\[H:8])[H:9])[O:4][O:5]1)([H:10])([H:11])[H:12],65.39742250000032
MR_273299_1,[C:1]1([C:4]([H:15])([H:16])[H:17])([N:6]([H:9])[H:10])[N:5]([H:8])[C:3]([H:13])([H:14])[C:2]([H:11])([H:12])[O:7]1>>[C:1](\[C:4]([H:15])([H:16])[H:17])(=[N:5]\[C:3]([C:2]([O:7][H:8])([H:11])[H:12])([H:13])[H:14])[N:6]([H:9])[H:10],37.869624999981966
MR_25510_0,[C:1]([c:3]1[n:2]([H:8])[n:7][c:6]([H:11])[c:4]1[N:5]([H:9])[H:10])([H:12])([H:13])[H:14]>>[C:1](/[C:3](=[N:2]\[H:8])[C@:4]1([N:5]([H:9])[H:10])[C:6]([H:11])[N:7]1)([H:12])([H:13])[H:14],66.55892500002835
MR_136512_1,[C:1]([N:3](/[C:4]([N:5]([H:9])[H:10])=[N:8]/[H:11])/[C:6](=[C:7](\[C:2]([H:17])([H:18])[H:19])[H:13])[H:12])([H:14])([H:15])[H:16]>>[C:1](/[N:3]=[C:6](/[C@:7]([C:2]([H:17])([H:18])[H:19])(/[C:4]([N:5]([H:9])[H:10])=[N:8]/[H:11])[H:13])[H:12])([H:14])([H:15])[H:16],65.73689999999928
MR_354967_0,[C:1]([C:2]([C:4]([C:3]([H:16])([H:17])[H:18])([C:6](=[C:7]([H:19])[H:20])[H:15])[O:9][H:10])([N:5]([H:13])[H:14])[H:12])(=[O:8])[H:11]>>[C:1]([C:2]([C:4]([C:3]([H:16])([H:17])[H:18])=[O:9])([N:5]([H:13])[H:14])[H:12])([C:6](=[C:7]([H:19])[H:20])[H:15])([O:8][H:10])[H:11],59.5629274999996
MR_447844_1,[N:1]1([H:10])[C:3]2([C:4](=[O:8])[H:11])[N:6]1[C:2]([O:5][H:9])=[N:7]2>>[n:1]1([H:10])[c:3]([C:4](=[O:8])[H:11])[n:7][c:2]([O:5][H:9])[n:6]1,17.015289999986294
MR_145121_1,[C:1]([N:2]([C:3]([O:6][H:8])=[O:7])[C:4](=[C:5]([H:13])[H:14])[H:9])([H:10])([H:11])[H:12]>>[C:1](/[N:2]=[C:4](\[C:5]([C:3]([O:6][H:8])=[O:7])([H:13])[H:14])[H:9])([H:10])([H:11])[H:12],63.86067499999229
MR_136017_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([O:6][N:4]([H:9])[H:10])=[O:7])([N:5]([H:11])[H:12])[H:8]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3](=[O:7])[H:8])([N:5]([H:11])[H:12])[O:6][N:4]([H:9])[H:10],48.80883250000679
MR_414767_0,[C@@:1]1([C:4]([H:16])([H:17])[H:18])([O:7][H:9])[C:3]([H:14])([H:15])[N:5]1[C@@:2]([N:6]([H:12])[H:13])([O:8][H:10])[H:11]>>[C:1]([C:3](/[N:5]=[C:2](/[N:6]([H:12])[H:13])[H:11])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([O:7][H:9])[O:8][H:10],47.56387250001112
MR_51562_0,[C:1]([C:2]([N:4]([H:9])[H:10])=[C:5]([H:11])[H:12])([N:3]([H:7])[H:8])=[O:6]>>[C:1]1([N:3]([H:7])[H:8])=[C:2]([N:4]([H:9])[H:10])[C:5]([H:11])([H:12])[O:6]1,67.9551124999989
MR_319172_0,[C:1]([N:2](/[C:3]([N:4]([H:10])[H:11])=[N:7]/[O:6][H:9])/[C:5](=[N:8]/[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[N:7](/[C:5](=[N:8]/[H:12])[H:13])[O:6][H:9])([H:14])([H:15])[H:16],48.29302750002498
MR_64647_0,[C:1]([C:4]([N:2]([C:3]([O:5][H:8])=[O:6])[H:9])=[O:7])([H:10])([H:11])[H:12]>>[C:1]([C:4]([O:6]/[C:3](=[N:2]/[H:9])[O:5][H:8])=[O:7])([H:10])([H:11])[H:12],37.37076250002872
MR_298724_1,[C@@:1]([C:2](=[O:6])[H:10])([O:3][O:4][H:7])([O:5][H:8])[H:9]>>[C@@:1]1([O:5][H:8])([H:9])[C@:2]([O:3][O:4][H:7])([H:10])[O:6]1,52.99551249999453
MR_694468_1,[C:1](/[C:2]([C:3]([N:6]([H:14])[H:15])=[C:7]([H:17])[H:18])=[N:8]/[H:16])([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[H:9]>>[C:1](\[C:2]([C:3]([N:6]([H:14])[H:15])=[C:7]([H:17])[H:18])([N:5]([H:12])[H:13])[N:8]([H:11])[H:16])(=[N:4]/[H:10])[H:9],53.689527499990106
MR_310080_1,[C:1]([O:2][H:7])([O:3][H:6])([N:4]=[O:5])[H:8]>>[C:1](=[O:3])([N:4]([O:2][H:7])[O:5][H:6])[H:8],36.89637250001368
MR_429600_1,[C:1]1([O:8][C:2](=[C:5]([H:19])[H:20])[H:11])([H:10])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:6]1([N:7]([H:12])[H:13])[N:9]([H:14])[H:21]>>[C:1]1(/[C:6]([N:7]([H:12])[H:13])=[N:9]/[H:14])([H:10])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:2]([C:5]([H:19])([H:20])[H:21])([H:11])[O:8]1,69.82882750001224
MR_588532_1,[C:1]([C:2](/[C:3](=[N:6]\[H:11])[H:12])([O:7][H:9])[H:10])([O:4][H:8])=[O:5]>>[C:1]([C:2](/[C:3](=[N:6]\[H:11])[H:12])=[O:7])([O:4][H:8])([O:5][H:9])[H:10],57.18721250000527
MR_91227_0,[C:1]([N:4]([C:5]([C:2]([H:13])([H:14])[H:15])=[O:8])/[C:6]([C:3]([H:16])([H:17])[H:18])=[N:7]\[H:9])([H:10])([H:11])[H:12]>>[C:1](/[N:4]=[C:5](\[C:2]([H:13])([H:14])[H:15])[O:8]/[C:6]([C:3]([H:16])([H:17])[H:18])=[N:7]\[H:9])([H:10])([H:11])[H:12],39.79667750000331
MR_257546_0,[C@@:1]([C:3]([O:6][H:10])=[O:9])(/[C:4]([C:2]([H:15])([H:16])[H:17])=[C:5](\[O:8][H:12])[H:14])([O:7][H:11])[H:13]>>[C:1](=[C:4](/[C:2]([H:15])([H:16])[H:17])[C@@:5]([C:3]([O:6][H:10])=[O:9])([O:8][H:12])[H:14])(\[O:7][H:11])[H:13],69.43099250001794
